US05518997
2. α-Hexylcinnamic aldehyde (HCA)
Solid at 10°-23° C. At higher temperature, yellowish, oily liquid which has a high tendency to oxidation (cinnamic acid). Dissolves readily in diethyl phthalates and dipropylene glycol, floral, fruity note.

reactant | cinnamic acid | C(C=CC1=CC=CC=C1)(=O)O | C9H8O2
solvent | dipropylene glycol | CC(COC(C)CO)O | C6H14O3
product | α-Hexylcinnamic aldehyde | CCCCCC/C(=C\C1=CC=CC=C1)/C=O | C15H20O
